US07179819B2
To a stirred solution of methyl 4-(trans-1-tert-butoxycarbonyl-4-trifluoroacetamido-(2S)-pyrrolidinyl)methoxybenzoate (520 mg, 1.17 mmol) in DMF (10.0 ml) was added K2CO3 (321 mg, 2.33 mmol) and MeI (330 mg, 2.33 mmol) at room temperature. The reaction mixture was stirred at 50° C. for 18 hr. Water was added to the mixture and extracted with EtOAc. The organic layer was washed with water, then dried over Na2SO4, and concentrated in vacuo. The residue was purified by column chromatography on silica gel with EtOAc-n-hexane (1:2, v/v) as eluent to give methyl 4-[trans-1-tert-butoxycarbonyl-4-(N-methyl-trifluoroacetamido)-(2S)-pyrrolidinyl]methoxybenzoate (390 mg, 73%) as a colorless oil. 1H-NMR (CDCl3) δ 1.46 (9H, s), 2.12–2.40 (m, 2H), 2.96 and 3.05 (each s, total 3H), 3.28–3.70 (m, 2H), 3.88 (s, 3H), 3.95–4.42 (m, 3H), 5.10–5.40 (m, 1H), 6.89–6.91 (m, 2H), 7.96–8.00 (m, 2H).

reactant | methyl 4-(trans-1-tert-butoxycarbonyl-4-trifluoroacetamido-(2S)-pyrrolidinyl)methoxybenzoate | 1.17 mmol, 520 mg | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)NC(C(F)(F)F)=O)COC1=CC=C(C(=O)OC)C=C1 | C20H25F3N2O6
reactant | K2CO3 | 2.33 mmol, 321 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | MeI | 2.33 mmol, 330 mg | CI | CH3I
reactant | Water | O | H2O
solvent | DMF | 10.0 ml | CN(C)C=O | C3H7NO
product | methyl 4-[trans-1-tert-butoxycarbonyl-4-(N-methyl-trifluoroacetamido)-(2S)-pyrrolidinyl]methoxybenzoate | 390 mg, 73% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)N(C(C(F)(F)F)=O)C)COC1=CC=C(C(=O)OC)C=C1 | C21H27F3N2O6
